US05665597
Decomposition of TCE using KB2 strain (inducer: 100 ppm of m-cresol/p-cresol)
In the culture system using p-cresol as an inducer, TCE was remarkably decomposed in the first 12 hours, and 5 ppm of TCE was completely decomposed after 18 hours. Quantitative analysis of p-cresol was done at this point using a spectrophotometer to confirm that p-cresol was completely decomposed. In the culture system using m-cresol as an inducer, remarkable decomposition of TCE started after about 12 hours of induction period and 5 ppm of TCE was completely decomposed after 30 hours. Quantitative analysis of m-cresol was done at this point using a spectrophotometer, and it was found that m-cresol was completely decomposed.

reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | m-cresol p-cresol | C1=C(C=CC=C1O)C.C1=CC(=CC=C1O)C | 2C7H8O
